US08012956B2
A mixture of methyl 2-methyl-4-(methylamino)-3-nitrobenzoate (90 mg, 0.4 mmol), 10% palladium on charcoal (Degussa type, 90 mg), acetic acid (124 uL, 1.5 mmol), and ethyl acetate (20 mL) was shaken in a Parr hydrogenation apparatus at 40 psi for 18 hours. The reaction mixture was then filtered and concentrated. The residue was dissolved in formic acid was stirred at 100° C. for 1.5 hour. The reaction mixture was concentrated, quenched with ice-water (15 mL) and the pH was adjusted to basic by portion-wise sodium bicarbonate addition then extracted with ethyl acetate. The combined extract was washed with water (2×30 mL), brine (30 mL), dried over sodium sulfate, filtered and concentrated to give methyl 1,4-dimethyl-1H-benzimidazole-5-carboxylate (78 mg, 95% yield). MS (EI) for C 1H12N2O2: 205 (MH+).

reactant | methyl 2-methyl-4-(methylamino)-3-nitrobenzoate | 0.4 mmol, 90 mg | CC1=C(C(=O)OC)C=CC(=C1[N+](=O)[O-])NC | C10H12N2O4
reactant | acetic acid | 1.5 mmol, 124 uL | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | 90 mg | [Pd] | Pd
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | methyl 1,4-dimethyl-1H-benzimidazole-5-carboxylate | 78 mg, 95% yield | CN1C=NC2=C1C=CC(=C2C)C(=O)OC | C11H12N2O2
